US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-ethoxycarbonylphenyl)urea hydrochloride
The procedure described in Example 3 was followed, using 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride (7.54 g; 20 mmole), methylene chloride (50 ml), tetrahydrofuran (50 ml), triethylamine (8.4 ml; 60 mmole) and 4-ethoxycarbonylphenyl isocyanate (3.8 g; 20 mmole). Recrystallization from methanol provided the title compound (3.11 g; 34% yield) as colorless crystals, m.p. 233°-234° C.

reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride | 20 mmole, 7.54 g | Cl.Cl.Cl.NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 60 mmole, 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-ethoxycarbonylphenyl isocyanate | 20 mmole, 3.8 g | C(C)OC(=O)C1=CC=C(C=C1)N=C=O | C10H9NO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-ethoxycarbonylphenyl)urea hydrochloride | 3.11 g, 34% yield | Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=CC=C(C=C2)C(=O)OCC)C=C1 | InChI=1S/C24H31ClN4O3.ClH/c1-2-32-23(30)20-6-10-22(11-7-20)27-24(31)26-12-3-13-28-14-16-29(17-15-28)18-19-4-8-21(25)9-5-19;/h4-11H,2-3,12-18H2,1H3,(H2,26,27,31);1H
